US09447074B2
Intermediate 63, 2-bromo-6-(1,1-dimethylethyl)-3-pyridinol
To a stirred solution of 6-(1,1-dimethylethyl)-3-pyridinol, (3.8 g) in pyridine (150 ml) was added bromine (1.29 ml), diluted in pyridine, dropwise at 20 C. The reaction mixture was allowed to stir at 25-30 C. for 1 h. The reaction had gone to completion by tlc. It was poured into brine and extracted with ethyl acetate. The organics were dried over sodium sulphate and concentrated under reduced pressure. The crude material was subjected to flash chromatography using a 0-5% gradient of ethyl acetate in hexane to give the title compound, 2.9 g

reactant | 6-(1,1-dimethylethyl)-3-pyridinol | 3.8 g | CC(C)(C)C1=CC=C(C=N1)O | C9H13NO
reactant | bromine | 1.29 ml | BrBr | Br2
solvent | pyridine | 150 ml | N1=CC=CC=C1 | C5H5N
solvent | brine | [Cl-].[Na+].O
product | 2-bromo-6-(1,1-dimethylethyl)-3-pyridinol | BrC1=NC(=CC=C1O)C(C)(C)C | C9H12BrNO
